* Z:\mnt\design.r\spice\examples\1266-3.3.asc
M§Q1 N005 N009 0 0 NDS9410A
L1 N005 N006 5µ
R1 N006 OUT .02
C1 OUT 0 390µ Rser=.01
V1 IN 0 7
C2 N010 0 180p
C3 N007 0 3300p
D1 0 N005 1N5818
C4 N006 OUT 1000p
R2 N008 N007 470
M§Q2 IN N004 N005 N005 NDS9410A
D2 IN N001 1N5818
C5 N001 N005 .1µ
XU1 N004 N001 N001 0 IN N010 N008 OUT N006 MP_01 0 0 N002 N003 0 N009 LTC1266-3.3
Rload OUT 0 2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m startup
.lib LTC1266-3.3.sub
.backanno
.end
